US07317021B2
B9. N-(2-Amino-5-iodo-pyridin-3-yl)-3-[4-methyl-6-(trityl-amino)-pyridin-2-yl]-propionamide
1.30 g of 3-[4-methyl-6-(trityl-amino)pyridin-2-yl]-propionic acid and 724 mg of 2,3-diamino-5-iodo-pyridine are dissolved in 37 ml of pyridine and sequentially treated with 1.06 g of O-[(ethoxycarbonyl)canomethylene-amino]-N,N,N′,N′-tetramethyl-uronium tetrafluoroborate and 579 μl of diisopropylethyl amine. The reaction mixture is warmed to 50° C. for 24 h. Thereafter the solvents are evaporated in vacuo. The remaining residue is coevaporated twice with toluene yielding 3.55 g of crude product. Purification by chromatography on LiChroprep® NH2 (25-40 μm, Merck, Darmstadt) (75 g, eluent: toluene/ethyl acetate 1:1) affords 1.08 g of the title compound as an amorphous solid. ESI-MS: 640.0 (MH+). TLC: Rf=0.16 (toluene/ethyl acetate 1:1, LiChroprep® NH2 HPTLC).

reactant | 3-[4-methyl-6-(trityl-amino)pyridin-2-yl]-propionic acid | 1.30 g | CC1=CC(=NC(=C1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC(=O)O | C28H26N2O2
reactant | 2,3-diamino-5-iodo-pyridine | 724 mg | NC1=NC=C(C=C1N)I | C5H6IN3
reactant | diisopropylethyl amine | 579 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 37 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-Amino-5-iodo-pyridin-3-yl)-3-[4-methyl-6-(trityl-amino)-pyridin-2-yl]-propionamide | 1.08 g | NC1=NC=C(C=C1NC(CCC1=NC(=CC(=C1)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)I | C33H30IN5O
